US08293763B2
Step 2: 8-(2-Fluoro-4-methylsulfanyl-phenylamino)-imidazo[1,5-a]pyridine-7-carboxylic acid (2-vinyloxy-ethoxy)-amide
To a solution of 8-(2-fluoro-4-methylsulfanyl-phenylamino)-imidazo[1,5-a]pyridine-7-carboxylic acid methyl ester (136 mg, 0.41 mmol) in IMS (10 mL) was added a 1.0 M aqueous solution of sodium hydroxide (0.82 mL, 0.82 mmol). The reaction mixture was heated at 65° C. for 1 hour and then cooled to room temperature and concentrated in vacuo. The resultant residue was azeotroped with toluene, and then suspended in THF (10 mL). O-(2-Vinyloxy-ethyl)-hydroxylamine (84 mg, 0.82 mmol), N-N-diisopropylethylamine (0.28 mL, 1.64 mmol), EDCI (157 mg, 0.82 mmol) and HOBt (111 mg, 0.82 mmol) were then added sequentially, before the reaction mixture was stirred for 18 hours at room temperature. The reaction mixture was then diluted with ethyl acetate and washed with water, a saturated aqueous solution of sodium bicarbonate and brine, dried (Na2SO4), filtered and concentrated. The resultant residue was subjected to flash chromatography (Si-PPC, gradient 0% to 100%, ethyl acetate in dichloromethane) to afford the title compound as a pale yellow oil (160 mg, 97%). LCMS (method B): RT=2.91 min, [M+H]+=403.

reactant | 8-(2-fluoro-4-methylsulfanyl-phenylamino)-imidazo[1,5-a]pyridine-7-carboxylic acid methyl ester | 0.41 mmol, 136 mg | COC(=O)C1=C(C=2N(C=C1)C=NC2)NC2=C(C=C(C=C2)SC)F | C16H14FN3O2S
reactant | sodium hydroxide | 0.82 mmol, 0.82 mL | [OH-].[Na+]
reactant | O-(2-Vinyloxy-ethyl)-hydroxylamine | 0.82 mmol, 84 mg | C(=C)OCCON | C4H9NO2
reactant | EDCI | 0.82 mmol, 157 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.82 mmol, 111 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 8-(2-Fluoro-4-methylsulfanyl-phenylamino)-imidazo[1,5-a]pyridine-7-carboxylic acid (2-vinyloxy-ethoxy)-amide | 160 mg, 97% | C(=C)OCCONC(=O)C1=C(C=2N(C=C1)C=NC2)NC2=C(C=C(C=C2)SC)F | C19H19FN4O3S
